US04000151
In the manner given in Example 1, 2,6-dichloro-4-(2,6-difluorophenyl)quinoline is reacted at reflux with hydrazine hydrate to give 6-chloro-4-(2,6-difluorophenyl)-2-hydrazinoquinoline.

reactant | 2,6-dichloro-4-(2,6-difluorophenyl)quinoline | ClC1=NC2=CC=C(C=C2C(=C1)C1=C(C=CC=C1F)F)Cl | C15H7Cl2F2N
reactant | hydrazine hydrate | O.NN
product | 6-chloro-4-(2,6-difluorophenyl)-2-hydrazinoquinoline | ClC=1C=C2C(=CC(=NC2=CC1)NN)C1=C(C=CC=C1F)F | C15H10ClF2N3
